US05387352
An additional method which may be used to produce the compounds of this invention involves reacting a benzene diol with phosphorus pentoxide to produce a benzene diol bis(phosphoric acid);

reactant | benzene diol | C=1(C(=CC=CC1)O)O | C6H6O2
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | benzene diol bis(phosphoric acid) | P(O)(O)(O)=O.P(O)(O)(O)=O.C=1(C(=CC=CC1)O)O | InChI=1S/C6H6O2.2H3O4P/c7-5-3-1-2-4-6(5)8;2*1-5(2,3)4/h1-4,7-8H;2*(H3,1,2,3,4)
